US08754226B2
To a solution of (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)pyrrolidin-2-one (Preparation E; 1.0 g, 2.8 mmol) in DMF (30 mL) was added N-ethyl-N-isopropylpropan-2-amine (1.1 g, 8.4 mmol) and methyl 5,6-dichloronicotinate (1.7 g, 8.4 mmol) and the reaction was stirred overnight at ambient temperature. The reaction was diluted with EtOAc (250 mL) and washed with water (100 mL), and brine (50 mL), and the combined organic phases were dried over MgSO4, filtered and concentrated under vacuum. The crude material was purified on silica using a gradient of 1:9 to 1:4 EtOAc:DCM as eluent to yield a solid, which was further precipitated from using isopropanol to give (S)-methyl 5-chloro-6-(4-(3-(2-fluoro-4-(methylsulfonyl)phenylamino)-2-oxopyrrolidin-1-yl)piperidin-1-yl)nicotinate (0.70 g, 47% yield).

reactant | (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)pyrrolidin-2-one | 2.8 mmol, 1.0 g | FC1=C(C=CC(=C1)S(=O)(=O)C)N[C@@H]1C(N(CC1)C1CCNCC1)=O | C16H22FN3O3S
reactant | N-ethyl-N-isopropylpropan-2-amine | 8.4 mmol, 1.1 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methyl 5,6-dichloronicotinate | 8.4 mmol, 1.7 g | ClC=1C(=NC=C(C(=O)OC)C1)Cl | C7H5Cl2NO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | (S)-methyl 5-chloro-6-(4-(3-(2-fluoro-4-(methylsulfonyl)phenylamino)-2-oxopyrrolidin-1-yl)piperidin-1-yl)nicotinate | 0.70 g, 47% yield | ClC=1C(=NC=C(C(=O)OC)C1)N1CCC(CC1)N1C([C@H](CC1)NC1=C(C=C(C=C1)S(=O)(=O)C)F)=O | C23H26ClFN4O5S
